US07820660B2
Step 1: Methyl 2-(1,2,3,4-tetrahydroquinolin-2-yl)-1-methyl-5-benzoyloxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate
Benzyl 2-[5-(benzoyloxy)-4-(methoxycarbonyl)-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl]-1,2,3,4-tetrahydroquinoline-1-carboxylate (prepared from tetrahydroquinoline-2-carboxylic acid (Robl et al, Tetrahedron Letters 1995, 36: 1593) by protection of the nitrogen and following procedures similar to those set forth in Examples 1 or 2 in combination with a deprotection step) was dissolved in EtOAc and hydrogenated at atmospheric pressure on 10% Pd/C at room temperature overnight. The title product was obtained as the residue after filtration and evaporation of the organic solvent.

reactant | Benzyl 2-[5-(benzoyloxy)-4-(methoxycarbonyl)-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl]-1,2,3,4-tetrahydroquinoline-1-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C(N(C1=O)C)C1N(C2=CC=CC=C2CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C31H27N3O7
reactant | tetrahydroquinoline-2-carboxylic acid | N1C(CCC2=CC=CC=C12)C(=O)O | C10H11NO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Pd/C | [Pd] | Pd
product | Methyl 2-(1,2,3,4-tetrahydroquinolin-2-yl)-1-methyl-5-benzoyloxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate | N1C(CCC2=CC=CC=C12)C=1N(C(C(=C(N1)C(=O)OC)OC(C1=CC=CC=C1)=O)=O)C | C23H21N3O5
